US09388189B2
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (330 mg, 1.08 mmol) was treated with 5-bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (430 mg, 1.19 mmol), cesium fluoride (33 mg, 0.22 mmol), N,N-diisopropylethylamine (1.1 mL, 6.49 mol) and 1-butanol according to Preparation 13. The residue was purified using SP1® Purification System (0% to 30%, hexane-ethyl acetate) to give 0.24 g (38% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 1.08 mmol, 330 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 5-bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1.19 mmol, 430 mg | BrC1=CN(C=2N=CN=C(C21)Cl)COCC[Si](C)(C)C | C12H17BrClN3OSi
reactant | cesium fluoride | 0.22 mmol, 33 mg | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 6.49 mol, 1.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-butanol | C(CCC)O | C4H10O
product | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.24 g, 38% yield | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
